US08053457B2
{2-[4-(Pyridin-2-ylcarbamoylmethyl)-piperazin-1-yl]-ethyl}-carbamic acid tert-butyl ester
The title compound is synthesized by coupling of 2-piperazin-1-yl-N-pyridin-2-yl-acetamide trihydrochloride dehydrate (commercially available from ABCR GmbH) and (2-Bromo-ethyl)-carbamic acid tert-butyl ester analogously to the preparation of Intermediate 269.2 as a colorless oil; ES-MS: M+H=364.3: CtRet=4.07.

reactant | 2-piperazin-1-yl-N-pyridin-2-yl-acetamide trihydrochloride | Cl.Cl.Cl.N1(CCNCC1)CC(=O)NC1=NC=CC=C1
reactant | (2-Bromo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
product | {2-[4-(Pyridin-2-ylcarbamoylmethyl)-piperazin-1-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN1CCN(CC1)CC(NC1=NC=CC=C1)=O)=O | C18H29N5O3
